US05506256
B) (2S)-2-(phenoxyacetyl)-1-[N-(3-phenylpropionyl)-L-prolyl]pyrrolidine
(2S)-2-(1-Hydroxy-2-phenoxyethyl)-1-[N-(3-phenylpropionyl)-L-prolyl]pyrrolidine (425 mg) was subjected to DMSO-DCC oxidation as in Example 1D) to give 152 mg of the title compound (See Table 6).

reactant | (2S)-2-(1-Hydroxy-2-phenoxyethyl)-1-[N-(3-phenylpropionyl)-L-prolyl]pyrrolidine | 425 mg | OC(COC1=CC=CC=C1)[C@H]1N(CCC1)C([C@H]1N(CCC1)C(CCC1=CC=CC=C1)=O)=O | C26H32N2O4
reactant | DMSO DCC | CS(=O)C.C1CCC(CC1)N=C=NC2CCCCC2
product | (2S)-2-(phenoxyacetyl)-1-[N-(3-phenylpropionyl)-L-prolyl]pyrrolidine | 152 mg | O(C1=CC=CC=C1)CC(=O)[C@H]1N(CCC1)C([C@H]1N(CCC1)C(CCC1=CC=CC=C1)=O)=O | C26H30N2O4
